US07846929B2
To a solution of N-(2-Morpholin-4-yl-ethyl)-methanesulfonamide in tetrahydrofuran under nitrogen was added sodium hydride, 60% dispersion in mineral (16 mg). The mixture was stirred at room temperature for 40 minutes. A solution of 6-Bromomethyl-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (125 mg) in tetrahydrofuran (5 ml) was added. The reaction mixture was stirred at room temperature for 3.5 hours, then 50° C. for 3.5 hours. The solvents were removed in vacuo to give a crude product which was purified by flash chromatography to yield N-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-N-(2-morpholin-4-yl-ethyl)-methanesulfonamide (138 mg).

reactant | N-(2-Morpholin-4-yl-ethyl)-methanesulfonamide | N1(CCOCC1)CCNS(=O)(=O)C | C7H16N2O3S
reactant | sodium hydride | [H-].[Na+]
reactant | 6-Bromomethyl-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 125 mg | BrCC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C11H11BrClN3OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-N-(2-morpholin-4-yl-ethyl)-methanesulfonamide | 138 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN(S(=O)(=O)C)CCN2CCOCC2)N2CCOCC2 | C18H26ClN5O4S2
